US04219475
Preparation of Cinnamaldehyde Thiosemicarbazone
A solution of 18.2 g (0.20 m) of thiosemicarbazide in 250 ml of hot water was gradually added to a solution of 26.4 g (0.20 m) of cinnamaldehyde in 250 ml of hot 2B ethanol. Small, colorless crystals began to ppt from the homogeneous mixture after several minutes of heating on a steam bath. Heating was continued for a half an hour, after which the mixture was cooled to room temperature and the product was collected by filtration, washed with cold ethanol, and air-dried to yield 25.5 g of small, pale yellow crystals. An additional 18.3 g of product was recovered by concentrating the mother liquors. Recrystallization from ethanol gave 29.3 g (0.14 m) of small, pale yellow crystals, m.p. 137°-139° C.

reactant | thiosemicarbazide | 18.2 g | NNC(=S)N | CH5N3S
reactant | cinnamaldehyde | 26.4 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | ethanol | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
product | Cinnamaldehyde Thiosemicarbazone | C(C=CC1=CC=CC=C1)=NNC(=S)N | C10H11N3S
